US06187842B1
A 500 ml four-necked flask was charged with a 70 wt % aqueous solution of 143 g (0.55 mole) of D-sorbitol, 73.7 g (0.55 mole) of 3,4-dimethylbenzaldehyde and 12 g of 50 wt % sulfuric acid. The air inside the system was replaced with nitrogen gas. The contents of the flask were stirred at a temperature of 21° C. for 6 hours. The obtained reaction mixture was analyzed by GC. It was found that mono(3,4-dimethylbenzylidene)-D-sorbitol was produced in a yield of 70% and 0.5% or less of bis(3,4-dimethylbenzylidene)-D-sorbitol was also produced.

reactant | D-sorbitol | 0.55 mole, 143 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | 3,4-dimethylbenzaldehyde | 0.55 mole, 73.7 g | CC=1C=C(C=O)C=CC1C | C9H10O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | mono(3,4-dimethylbenzylidene)-D-sorbitol | CC=1C=C(C=C(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C=CC1C | C15H22O6
product | bis(3,4-dimethylbenzylidene)-D-sorbitol | 0.5% or less | CC=1C=C(C=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC2=CC(=C(C=C2)C)C)O)O)O)O)O)C=CC1C | C24H30O6
